US05773388
Synthesis of 4-Chlorodifluoromethyl-5-[(4-chlorophenyl)hydroxymethyl]pyrimidine (Compound No. 119)
12 g of 5-(4-chlorobenzoyl)-4-chlorodifluoromethylpyrimidine and 6 g of a t-butylamine borane complex were added to 100 ml of ethanol, and the resulting mixture was stirred at 0° C. for 2 hours. Then, 20 ml of acetone was added thereto, and the mixture was stirred at 0° C. for 1 hour. The solvent was distilled off under reduced pressure, and the residue was purified by silica gel column chromatography (developing solvent: chloroform) to obtain 11.1 g of the desired product as a pale yellow viscous liquid. nD20.3 1.5563

reactant | 5-(4-chlorobenzoyl)-4-chlorodifluoromethylpyrimidine | 12 g | ClC1=CC=C(C(=O)C=2C(=NC(=NC2)C(F)F)Cl)C=C1 | C12H6Cl2F2N2O
reactant | ethanol | 100 ml | C(C)O | C2H6O
solvent | acetone | 20 ml | CC(=O)C | C3H6O
product | 4-Chlorodifluoromethyl-5-[(4-chlorophenyl)hydroxymethyl]pyrimidine | 11.1 g | ClC1=NC(=NC=C1C(O)C1=CC=C(C=C1)Cl)C(F)F | C12H8Cl2F2N2O
